US08012976B2
A mixture of methyl 4-oxo-2,3-di(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 4-oxo-2,3-di(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (60 mg, 0.17 mmol) in hydrazine monohydrate (7 mL) was heated to reflux for 4 hr. Then the mixture was cooled to room temperature and solvent was removed in vacuum to give crude product. The crude product was purified by pre-HPLC to give 8,9-di(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (15 mg, yield 68%) as a light yellow solid. 1H-NMR (400 MHz, DMSO) δ 4.46-4.48 (d, J=8.4 Hz, 1H), 4.90-4.92 (d, J=8.4 Hz, 1H), 7.16-7.20 (m, 3H), 7.32-7.34 (d, J=5.2 Hz, 2H), 7.40-7.42 (d, J=8.4 Hz, 1H), 7.55 (s, 1H), 7.59-7.63 (t, J=8.0 Hz, 1H), 8.40-8.40 (d, J=5.2 Hz, 2H), 8.44-8.45 (d, J=5.2 Hz, 2H). LC-MS (ESI) m/z: 342(M+1)+.

reactant | methyl 4-oxo-2,3-di(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | O=C1C(C(NC=2C=CC=C(C12)C(=O)OC)C1=CC=NC=C1)C1=CC=NC=C1 | C21H17N3O3
reactant | ethyl 4-oxo-2,3-di(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.17 mmol, 60 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OCC)C1=CC=NC=C1)C1=CC=NC=C1 | C22H19N3O3
reactant | hydrazine monohydrate | 7 mL | O.NN
product | 8,9-di(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 15 mg, yield 68% | N1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=NC=C1 | C20H15N5O
